reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8]>>[C:2](=[C:3]([C:4]#[C:5][H:12])[C:6]#[N:7])([H:9])[H:10].[O:1]([H:8])[H:11],55.0797958631806
[O:1]1[C:2]([H:9])([H:10])[C:3]#[C:4][C:5]([H:11])([H:12])[C@:6]1([O:7][H:8])[H:13]>>[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],40.400396330581806
[C:1]([C:2]([C:3](=[O:4])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:5]([C:6](=[O:7])[H:16])([H:14])[H:15]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10],72.70404543669001
[C:1]([C@@:2]([O:3][H:12])([C:4](/[N:5]=[C:6](/[O:7][H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],31.654284937736904
[C:1]([H:8])([H:9])([H:10])[H:19].[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])=[C:7]([H:20])[H:21].[O:2]=[C:3]([H:11])[H:12]>>[C:1]([O:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10],77.91666595143
[N:1]([C@@:2]([C:3]#[C:4][H:10])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[C:5]=[N:6][H:7].[N:1](=[C:2](/[C:3]#[C:4][H:10])[H:9])\[H:8],56.95482521174151
[N:4](=[C:5](/[O:6][H:7])[H:13])\[H:12].[O:1]1[C:2]([H:8])([H:9])[C:3]1([H:10])[H:11]>>[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],48.76651774459891
[C:1](#[C:2][C:3]#[N:4])[C:5]#[N:6]>>[C:1](=[C:2])([C:3]#[N:4])[C:5]#[N:6],61.0652633702242
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5](=[C:6]=[C:7]([H:16])[H:17])[H:15])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],81.46331602469404
[C:1]([C:2]([C:3]#[C:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](\[C:4][H:11])[C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9],83.210239461763
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1=[C:5]=[C:6]([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[C:6][H:14])[H:13])([H:7])([H:8])[H:9],85.47802722648505
[N:1]([C:2]([C@@:3]([N:4]([H:12])[H:13])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2]([C@@:3]([N:4]([H:12])[H:13])([N+:6]#[C-:5])[H:11])([H:9])[H:10])([H:7])[H:8],48.150800032701795
[O:1]([C:2]([C:3]1([H:11])[C-:4]=[C:5]([H:12])[C:7]([H:13])=[C+:6]1)([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C:4]#[C:5][H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8],26.1901408557534
[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@@:6]1([H:16])[N:5]([H:15])[C:4]([H:13])([H:14])[C:3]([H:11])([H:12])[O:7]1)([H:8])([H:9])[H:10],89.80248727096891
[O:1]([C:2](=[C:3]([C:6](=[O+:5][C-:4]([H:10])[H:11])[H:12])[H:9])[H:8])[H:7]>>[O:1]([C@@:2]1([H:8])[C@@:3]2([H:9])[C:4]([H:10])([H:11])[O:5][C@@:6]12[H:12])[H:7],33.589605602727104
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7]>>[H:8][H:9].[O:1]([C:2](=[C:3]=[O:4])[C:5]#[N:6])[H:7],68.2394327469732
[O:1]([C@@:2]1([H:7])[C:3]([H:8])([H:9])[O:4]1)[C:5](=[O:6])[H:10]>>[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],41.2468369815671
[O:1]=[C:2]([C:3]([O:4][C:5]([N:6]([H:7])[H:13])([H:8])[H:12])([H:10])[H:11])[H:9]>>[O:1]([C:2]([C:3]([O:4]/[C:5](=[N:6]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],43.01963439654846
[N+:1](#[C-:2])[C:3]#[N:4]>>[N:1]#[C:2][C:3]#[N:4],37.6826546468629
[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]1[C@:5]([C:4]([H:12])([H:13])[H:14])([H:15])[O:6]1)([H:10])[H:11])([H:7])([H:8])[H:9],110.336474916165
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[O:6][C:5]([H:12])=[C:4]1[H:11])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7],57.27986933989681
[C-:1]([O+:2]=[C:3]([C:5]([H:13])([H:14])[H:15])[H:9])([H:7])[H:8].[C:4]([H:6])([H:10])([H:11])[H:12]>>[C:1]([O:2][C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[H:9])([H:6])([H:7])[H:8],20.000449238063794
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3](=[O+:6][C-:5]([H:13])[H:14])[C:4]1([H:11])[H:12]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2,49.969513378657794
[C:1]([O:2][C:3]1=[C:7]([H:13])[C:6]([H:11])([H:12])[N:5]=[N:4]1)([H:8])([H:9])[H:10]>>[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10],21.424230062606608
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O+:3]=[C-:4][N:5]([N+:7]#[C-:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],112.274652912378
[C:1]([O:2][C:3](=[O:4])[N:5]([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([O:2][H:9])([H:6])([H:7])[H:8].[C:3](=[O:4])=[N:5][H:10],53.6260811550778
